US05053414
Synthesis of 2-[(2S)-1-[3-(N-benzyl-N-methylcarbamoyl)propanoyl]pyrrolidin-2-yl]-1,3-dioxolane
Ethylene glycol (0.3 ml), p-toluenesulphonic acid (1 mg) were added to a solution of (2S)-1-[3-(N-benzyl-N-methylcarbamoyl)propanoyl]pyrrolidin-2-al (164 mg) in benzene (3 ml). The mixture was refluxed for 1 hr. The reaction solution was poured into a saturated aq. solution of sodium bicarbonate. The mixture was extracted with benzene. The extract was washed, dried, and evaporated. The residue was purified by column chromatography on silica gel (CH3OH--EtOAc--CH2Cl2) to give the title compound (79 mg) having the following physical data:

reactant | Ethylene glycol | 0.3 ml | C(CO)O | C2H6O2
reactant | p-toluenesulphonic acid | 1 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | (2S)-1-[3-(N-benzyl-N-methylcarbamoyl)propanoyl]pyrrolidin-2-al | 164 mg | C(C1=CC=CC=C1)N(C(=O)CCC(=O)N1[C@@H](CCC1)C=O)C | C17H22N2O3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | benzene | 3 ml | C1=CC=CC=C1 | C6H6
product | 2-[(2S)-1-[3-(N-benzyl-N-methylcarbamoyl)propanoyl]pyrrolidin-2-yl]-1,3-dioxolane | 79 mg | C(C1=CC=CC=C1)N(C(=O)CCC(=O)N1[C@@H](CCC1)C1OCCO1)C | C19H26N2O4
